US06376515B2
N-{2-[N-(5-chloro(2-pyridyl))carbamoyl](3-thienyl)}[4-(2-sulfamoylphenyl)phenyl]carboxamide
A solution of 4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)benzoyl chloride (1 equiv), 3-amino-2-(4-chloro-2-pyridinyl)aminocarbonyl thiophene (1equiv), pyridine (5 equiv) in dichloromethane was stirred at rt overnight. The mixture was diluted with dichloromethane, washed with water, dried over Na2SO4, filtered and evaporated. The residue was refluxed with 1 mL of TFA for 2 h. After evaporation, reverse phase HPLC gave the title product. ES-MS 51 3(M+1).

reactant | 4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)benzoyl chloride | 1 equiv | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C17H18ClNO3S
reactant | 3-amino-2-(4-chloro-2-pyridinyl)aminocarbonyl thiophene | 1equiv | NC1=C(SC=C1)C(=O)NC1=NC=CC(=C1)Cl | C10H8ClN3OS
reactant | pyridine | 5 equiv | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | ClCCl | CH2Cl2
product | N-{2-[N-(5-chloro(2-pyridyl))carbamoyl](3-thienyl)}[4-(2-sulfamoylphenyl)phenyl]carboxamide | ClC=1C=CC(=NC1)NC(=O)C=1SC=CC1NC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)S(N)(=O)=O | C23H17ClN4O4S2
